US07141575B2
A mixture of 7-chloro-3-(2-fluorobenzyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidine-5-amine (145 mg, 0.50 mmol), tributyl 1-(2-(trimethylsilyl)ethoxymethyl)-1H-triazol-5-ylstannane (336 mg, 0.75 mmol) and Pd(PPh3)2Cl2 (35 mg, 0.05 mmol) in DMF (2 mL) was shaken at 80° C. for 17 h then purified directly by chromatography [SiO2; iso-hexane:EtOAc (2:1)] to give 3-(2-fluorobenzyl)-7-(1-(2-trimethylsilyl)ethoxymethyl)-1H-triazol-5-yl)-3H-[1,2,3]triazolo[4,5-d]pyrimidine-5-amine as a colourless oil. This material was dissolved in MeOH (1 mL), treated with a solution of HCl (0.5 mL, 4-M in dioxane), stirred for 17 h, concentrated in vacuo and the residue triturated with Et2O to give the title compound (16 mg, 10%) as an off-white solid.

reactant | 7-chloro-3-(2-fluorobenzyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidine-5-amine | 0.50 mmol, 145 mg | ClC=1C2=C(N=C(N1)N)N(N=N2)CC2=C(C=CC=C2)F | C11H8ClFN6
reactant | tributyl 1-(2-(trimethylsilyl)ethoxymethyl)-1H-triazol-5-ylstannane | 0.75 mmol, 336 mg | C(CCC)[Sn](C1=CN=NN1COCC[Si](C)(C)C)(CCCC)CCCC
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)2Cl2 | 0.05 mmol, 35 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3H-[1,2,3]triazolo[4,5-d]pyrimidine-5-amine | N1=NNC=2N=C(N=CC21)N | C4H4N6
